US08530470B2
Methyl 2-morpholino-4-oxo-8-[(2R)-pyrrolidin-2-yl]chromene-6-carboxylate (130 mg, 0.36 mmol) was reacted with 1-bromo-4-fluorobenzene (0.239 ml, 2.18 mmol) to afford methyl 8-[(2R)-(1-(4-fluorophenyl)pyrrolidin-2-yl)]-2-morpholino-4-oxo-4H-chromene-6-carboxylate (enantiomer 2, 24 mg, 15%) as a beige solid. Mass Spectrum: m/z [M+H]+=453.

reactant | Methyl 2-morpholino-4-oxo-8-[(2R)-pyrrolidin-2-yl]chromene-6-carboxylate | 0.36 mmol, 130 mg | O1CCN(CC1)C=1OC2=C(C=C(C=C2C(C1)=O)C(=O)OC)[C@@H]1NCCC1 | C19H22N2O5
reactant | 1-bromo-4-fluorobenzene | 2.18 mmol, 0.239 ml | BrC1=CC=C(C=C1)F | C6H4BrF
product | methyl 8-[(2R)-(1-(4-fluorophenyl)pyrrolidin-2-yl)]-2-morpholino-4-oxo-4H-chromene-6-carboxylate | 24 mg, 15% | FC1=CC=C(C=C1)N1[C@H](CCC1)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)OC | C25H25FN2O5
